US08247430B2
(2,4-dinitro-phenyl)-acetic Acid Methyl Ester
To a solution of (2,4-dinitro-phenyl)-acetic acid (5 g) in MeOH (100 mL) was added concentrated H2SO4 (1 mL) and the resulting solution was heated at reflux for overnight. After removing solvent in vacuum, the residue was partitioned between EtOAc and aqueous NaHCO3 (sat.). The organic solution was concentrated in vacuum to give the desired compound which was used without further purification.

reactant | (2,4-dinitro-phenyl)-acetic acid | 5 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6N2O6
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 100 mL | CO | CH4O
product | (2,4-dinitro-phenyl)-acetic Acid Methyl Ester | COC(CC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C9H8N2O6
